US04151173
A mixture of 4.3 parts by weight of methyl acrylate, 7.7 parts by weight of diethyl fumarate and 0.5 parts by weight of diphenyl(4-oxy-butyl)phosphine is boiled and refluxed for 10 hours in a nitrogen stream. Distillation of the reaction product mixture gave a 3-butene-1,2,3-tricarboxylic acid (1,2-diethyl, 3-methyl) ester. The ester of the tricarboxylic acid is converted to a high molecular weight carboxylic acid-producing composition by reacting same with a chlorinated polyisobutene having a molecular weight of about 1000 and a chlorine content of about 4.5% at a temperature ranging from about 80°-120° C. A mixture of approximately 2000 parts by weight of mineral oil, 3.0 equivalents of a polyoxyethylene triamine having an average molecular weight of about 1000 and approximately 3.0 equivalents of the above-mentioned high molecular weight tricarboxylic acid-producing composition is heated to temperatures of 150°-200° C. over a period of 15 to 20 hours. The resulting product is filtered to give a homogeneous mineral oil solution of the acylated polyamine.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | diethyl fumarate | C(\C=C\C(=O)OCC)(=O)OCC | C8H12O4
product | 3-butene-1,2,3-tricarboxylic acid | C(C(C(=C)C(=O)O)C(=O)O)C(=O)O | C7H8O6
